US08222248B2
To a solution of 3,5-dimethylphenylamine (7.26 g) in 200 mL of CH2Cl2, cooled in an ice bath, was added trifluoroacetic anhydride (12.5 mL) slowly. After the addition, the solution was stirred at room temperature for 15 min then Br2 (2.93 mL) was added slowly while maintaining room temperature with a water bath. The solution was stirred at room temperature for 3.5 h then was quenched with 10% Na2S2O3. The aqueous layer was extracted with CH2Cl2. The combined organic layers were dried and filtered. Removal of the solvent under reduced pressure gave an orange solid which was purified by recrystallization (1:1 hexanes/ethyl ether) to give N-(4-bromo-3,5-dimethylphenyl)-2,2,2-trifluoroacetamide as a white solid. MS (ESI)m/z 297 (M+H).

reactant | 3,5-dimethylphenylamine | 7.26 g | CC=1C=C(C=C(C1)C)N | C8H11N
reactant | trifluoroacetic anhydride | 12.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Br2 | 2.93 mL | BrBr | Br2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(4-bromo-3,5-dimethylphenyl)-2,2,2-trifluoroacetamide | BrC1=C(C=C(C=C1C)NC(C(F)(F)F)=O)C | C10H9BrF3NO
